US07649114B2
A 100 l double wall jacketed reaction vessel with electric impeller stirrer, gas transfer line, Pt100 temperature sensor and oil-based cooling and heating system was charged with 15 kg (59.7 mol) of a mixture of the enantiomeric pair (2R,3R)/(2S,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol (70%) and the enantiomeric pair (2R,3S)/(2S,3R)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol (30%) in 70 l of acetone at 20° C. and a stirrer speed of 100 rpm The solution was cooled to 5° C. Within 20 min, approx. 2.0 kg of gaseous hydrogen chloride were passed over the solution, the temperature in the vessel rising continuously to 28° C. despite cooling. The hydrogen chloride was taken from a hydrogen chloride cylinder which was connected to the gas transfer line of the vessel through a pressure reduction valve and hose and was placed on a balance for weight measurement. Further gaseous hydrogen chloride was then passed over until a 5 ml sample of the solution diluted with 10 ml of water had a pH value of 1-3. The solution was stirred at 5° C. for 2 h. The suspension was then centrifuged off in a centrifuge and washed once with 10 l of acetone. The product was dried in a drying cabinet at 40° C. for 24 h under reduced pressure to a final pressure of 20 mbar. 11.16 kg (65% of theoretical) of the enantiomeric pair (2R,3R)/(2S,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol hydrochloride were obtained as a colourless product. The residual content of the undesired enantiomeric pair (2S,3R)/(2R,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol hydrochloride was 3%.

reactant | Pt100 | B([C@@H]1CCCN1C(=O)[C@H](C(C)C)N)(O)O.CS(=O)(=O)O
reactant | (2S,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol | CN(C[C@@H]([C@](CC)(O)C1=CC(=CC=C1)OC)C)C | C15H25NO2
reactant | (2S,3R)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol | CN(C[C@@H]([C@@](CC)(O)C1=CC(=CC=C1)OC)C)C | C15H25NO2
reactant | hydrogen chloride | approx. 2.0 kg | Cl | ClH
solvent | acetone | 70 l | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | (2S,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol hydrochloride | Cl.CN(C[C@@H]([C@](CC)(O)C1=CC(=CC=C1)OC)C)C | InChI=1S/C15H25NO2.ClH/c1-6-15(17,12(2)11-16(3)4)13-8-7-9-14(10-13)18-5;/h7-10,12,17H,6,11H2,1-5H3;1H/t12-,15-;/m0./s1
